US05284847
Reaction of 4-cyano-5-methylthio-3-(t-butoxycarbonylamino)thiophene-2-carboxylic acid (9.2 g, 29 mmol), diphenylphosphoryl azide (10.0 g, 36.5 mmol) and triethylamine (4 ml, 29 mmol) in t-butyl alcohol (675 ml) was performed following the procedure outlined in example 1 (Method C). The crude product was purified by flash chromatography on silica gel 60 eluting with toluene graduated to dichloromethane. Recrystallization from toluene/petroleum ether gave 3.0 g of di-t-butyl 4-cyano5-(methylthio)thiophene-2,3-dicarbamate. M.p. 156°-157° C. 1H-NMR (CDCl3, δ): 1.50 (s, 18H), 2.55 (s, 3H), 6.55 (s, 1H), 8.30 (s, 1H).

reactant | 4-cyano-5-methylthio-3-(t-butoxycarbonylamino)thiophene-2-carboxylic acid | 29 mmol, 9.2 g | C(#N)C=1C(=C(SC1SC)C(=O)O)NC(=O)OC(C)(C)C | C12H14N2O4S2
reactant | diphenylphosphoryl azide | 36.5 mmol, 10.0 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 29 mmol, 4 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl alcohol | 675 ml | C(C)(C)(C)O | C4H10O
product | di-t-butyl 4-cyano5-(methylthio)thiophene-2,3-dicarbamate | 3.0 g | C(#N)C=1C(=C(SC1SC)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C16H23N3O4S2
